US05112947
(1) Z-Pro-Ser(Bzl)-Pro-Arg(NO2)-OBzl
The desired compound was prepared from 4.0 g of Boc-Ser(Bzl)-Pro-Arg(NO2)-OBzl, 20 ml of 4N HCl-AcOEt, 1 ml of NMM and 2.2 g of Z-Pro-OSu in the same manner as in Example 26-(4). The ether treatment was performed to obtain the desired compound as a crystalline product.

reactant | Boc-Ser(Bzl)-Pro-Arg(NO2)-OBzl | 4.0 g | N([C@@H](COCC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C33H45N7O9
reactant | HCl AcOEt | 4N, 20 ml | Cl.CCOC(=O)C
reactant | NMM | 1 ml | CN1CCOCC1 | C5H11NO
reactant | Z-Pro-OSu | 2.2 g | N1([C@H](C(=O)ON2C(=O)CCC2=O)CCC1)C(=O)OCC1=CC=CC=C1 | C17H18N2O6
solvent | ether | CCOCC | C4H10O
product | Z-Pro-Ser(Bzl)-Pro-Arg(NO2)-OBzl | N1([C@H](C(=O)N[C@@H](COCC2=CC=CC=C2)C(=O)N2[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC3=CC=CC=C3)CCC2)CCC1)C(=O)OCC1=CC=CC=C1 | C41H50N8O10
